US08138187B2
2-(5-Pyridin-4-yl-1H-indol-3-yl)ethanol (Ind-28)
5-Bromotryptophol (1.05 g, 4.39 mmol; see Table 1 and 2) and pyridine-4-boronic acid (10 mg, 6.59 mmol) were suspended in tetrahydrofuran (65 ml), and Na2CO3 solution (4.65 g, 43.9 mmol) in 44 ml of H2O) were added. Bistriphenylphosphinepalladium dichloride (456.2 mg, 0.65 mmol) was then added. The reaction mixture, which was clear when hot, was boiled at 65° C. for 14 h, while stirring. The course of the reaction was monitored by TLC. For working up, the reaction solution was filtered. The filtrate comprised two phases. The organic phase was separated off. The solvent was distilled off on a rotary evaporator. The viscous residue was purified by flash chromatography [silica gel 60 (45 g); eluent: EtOAc (800 ml)].

reactant | 5-Bromotryptophol | 4.39 mmol, 1.05 g | C1=CC2=C(C=C1Br)C(=CN2)CCO | C10H10BrNO
reactant | pyridine-4-boronic acid | 6.59 mmol, 10 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 43.9 mmol, 4.65 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | H2O | 44 ml | O | H2O
product | 2-(5-Pyridin-4-yl-1H-indol-3-yl)ethanol | N1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)CCO | C15H14N2O
